US07902356B2
2-[Benzyl-(2-methyl-allyl)-amino]-ethanol
Add methallyl chloride (68.8 g, 0.760 mol, Aldrich) to a mixture of N-benzylethanolamine (100 g, 0.663 mol) and potassium carbonate (139 g, 1.00 mol) in water (600 mL). Heat the mixture to 62° C. for 23 h and then transfer to a separatory funnel. Extract the product with tert-butyl methyl ether (500 mL). Dry, filter, and concentrate the organic solution to give the title compound (131 g, 96%) as a colorless liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.20-7.33 (5H, m), 4.92 (1H, br s), 4.83 (1H, br s), 4.35 (1H, t), 3.53 (2H, s), 3.44-3.50 (2H, m), 2.94 (1H, s), 2.42 (2H, t), 1.69 (1H, s).

reactant | methallyl chloride | 0.760 mol, 68.8 g | C(C(C)=C)Cl | C4H7Cl
reactant | N-benzylethanolamine | 0.663 mol, 100 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | potassium carbonate | 1.00 mol, 139 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 600 mL | O | H2O
product | 2-[Benzyl-(2-methyl-allyl)-amino]-ethanol | 131 g, 96% | C(C1=CC=CC=C1)N(CCO)CC(=C)C | C13H19NO
